US04745076
Preparation of methyl p-[β-chloropropionyl]-6-phenylcaproate
17.2 g of AlCl3, 18.5 ml of CS2 and 3.6 ml of β-chloro-propionyl chloride are placed in a stirring flask with a reflux condenser. 7.06 g of methyl 6-phenylcaproate are allowed to drop into this mixture at room temperature within 10 minutes (rinsing is carried out with 4 ml of CS2). The reaction mixture is subsequently stirred for a further 15 minutes, warmed slightly and then cooled. The reaction mixture is then pipetted into a stirred mixture of ice, water and ether. The organic phase is washed neutral with bicarbonate solution and water. After drying over MgSO4 the solvent is removed, 10.2 g of crystalline product identified as methyl p-[β-chloropropionyl]-6-phenyl-caproate are obtained.

reactant | AlCl3 | 17.2 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | β-chloro-propionyl chloride | 3.6 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | methyl 6-phenylcaproate | 7.06 g | C1(=CC=CC=C1)CCCCCC(=O)OC | C13H18O2
solvent | CS2 | 18.5 ml | C(=S)=S | CS2
product | methyl p-[β-chloropropionyl]-6-phenylcaproate | ClCCC(=O)C1=CC=C(C=C1)CCCCCC(=O)OC | C16H21ClO3
